US09278950B2
A pressure vial was charged with benzyl (7-bromo-2-{[(4-{(3S,5R)-3-[(tert-butoxycarbonyl)amino]-5-methylpiperidin-1-yl}pyridin-3-yl)amino]carbonyl}quinolin-3-yl)carbamate (0.029 g, 0.043 mmol), K3PO4 (0.0181 g, 0.0852 mmol), 1,4-dioxane (0.55 mL), water (0.092 mL) and 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydro-2H-pyran (0.013 g, 0.063 mmol). The mixture was deoxygenated with nitrogen for 10 min. Dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine-(2′-aminobiphenyl-2-yl)(chloro)palladium (1:1) (0.0022 g, 0.0028 mmol) was added. The mixture was sealed with screw cap, then heated at 80° C. for 1 h. The reaction mixture was quenched with water and extracted with EtOAc. The combined organic extracts were dried and concentrated. The residue was purified by flash chromatography on 20 g silica gel, eluting with 0-100% EtOAc in hexanes, to yield benzyl [2-{[(4-{(3S,5R)-3-[(tert-butoxycarbonyl)amino]-5-methylpiperidin-1-yl}pyridin-3-yl)amino]carbonyl}-7-(3,6-dihydro-2H-pyran-4-yl)quinolin-3-yl]carbamate (0.017 g, 57%), LCMS calc. for C39H45N6O6 [M+H]+: m/z=639.3. found: 693.3; and the corresponding benzyl carbamate deprotected product tert-butyl {(3S,5R)-1-[3-({[3-amino-7-(3,6-dihydro-2H-pyran-4-yl)quinolin-2-yl]carbonyl}amino)pyridin-4-yl]-5-methylpiperidin-3-yl}carbamate (0.010, 42%). LCMS calc. for C31H39N6O4 [M+H]+: m/z=559.3. found: 559.3.

reactant | benzyl (7-bromo-2-{[(4-{(3S,5R)-3-[(tert-butoxycarbonyl)amino]-5-methylpiperidin-1-yl}pyridin-3-yl)amino]carbonyl}quinolin-3-yl)carbamate | 0.043 mmol, 0.029 g | BrC1=CC=C2C=C(C(=NC2=C1)C(=O)NC=1C=NC=CC1N1C[C@H](C[C@H](C1)C)NC(=O)OC(C)(C)C)NC(OCC1=CC=CC=C1)=O | C34H37BrN6O5
reactant | K3PO4 | 0.0852 mmol, 0.0181 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 1,4-dioxane | 0.55 mL | O1CCOCC1 | C4H8O2
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydro-2H-pyran | 0.063 mmol, 0.013 g | CC1(OB(OC1(C)C)C=1CCOCC1)C | C11H19BO3
catalyst | Dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine (2′-aminobiphenyl-2-yl)(chloro)palladium | 0.0028 mmol, 0.0022 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1.NC1=C(C=CC=C1)C1=C(C=CC=C1)[Pd]Cl
solvent | water | 0.092 mL | O | H2O
product | benzyl [2-{[(4-{(3S,5R)-3-[(tert-butoxycarbonyl)amino]-5-methylpiperidin-1-yl}pyridin-3-yl)amino]carbonyl}-7-(3,6-dihydro-2H-pyran-4-yl)quinolin-3-yl]carbamate | 0.017 g, 57% | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H](C1)C)C1=C(C=NC=C1)NC(=O)C1=NC2=CC(=CC=C2C=C1NC(OCC1=CC=CC=C1)=O)C=1CCOCC1 | C39H44N6O6
